US07399758B2
TBTU (145 mg, 0.45 mmol) was added to a stirred solution of Methyl 13-cyclohexyl-6-(carboxy)-5H-indolo[2,1-a][2]benzazepine-10-carboxylate (125 mg, 0.30 mmol), morpholine (26 μL, 0.30 mmol), and N,N-diisopropylethylamine 200 μL, 1.15 mmol) in DMF (2 mL). The mixture was stirred at 22° C. for 20 min. The resulting solution was then injected onto a Shimadzu reverse phase preparative HPLC. The product containing fraction was concentrated on a Speed Vac® to leave methyl 13-cyclohexyl-6-(morpholinylcarbonyl)-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid as a yellow solid (64 mg, 44%). ESI-MS m/z 487 (MH+); 1H NMR (500 MHz, CDCl3) δ 1.21 (m, 1 H), 1.34-1.55 (m, 3 H), 1.77 (m, 2 H), 1.91 (m, 1 H), 2.06 (m, 3 H), 2.83 (m, 1 H), 2.97-3.85 (m, 8 H), 3.97 (s, 3 H), 4.45 (m, 1 H), 5.07 (m, 1 H), 6.89 (s, 1H), 7.41 (d, 1 H), 7.49 (m, 2 H), 7.57 (m, 1 H), 7.75 (m, 1 H), 7.89 (d, J=8.55 Hz, 1 H), 8.15 (s, 1 H).

reactant | TBTU | 0.45 mmol, 145 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Methyl 13-cyclohexyl-6-(carboxy)-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.30 mmol, 125 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(=C2)C(=O)O)C=CC=C1)C(=O)OC | C26H25NO4
reactant | morpholine | 0.30 mmol, 26 μL | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 1.15 mmol, 200 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 13-cyclohexyl-6-(morpholinylcarbonyl)-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 64 mg, 44% | CC1=CC=CC=2CC(=CN3C(C21)=C(C=2C=CC(=CC23)C(=O)O)C2CCCCC2)C(=O)N2CCOCC2 | C30H32N2O4
